US05578607
In a flask is placed 5,8-dimethyl-4-quinolone (5.18 g, 29.9 mmol) (prepared according to Burckhalter, et al., J. Am. Chem. Soc., Vol. 70 (1948), p. 1363) with sulfuric acid (30 mL). After stirring for 10 minutes, the flask is cooled in ice and concentrated nitric acid (1.90 mL, 30.2 mmol) is added dropwise. After the addition is completed, the mixture is stirred for 15 minutes in ice. The mixture is then poured onto crushed ice and allowed to warm to room temperature. The gray solid is filtered and washed with water. The solid is recrystallized from hot methanol to give 5,8-dimethyl-6-nitro-4-quinolone.

reactant | 5,8-dimethyl-4-quinolone | 29.9 mmol, 5.18 g | CC1=C2C(CC=NC2=C(C=C1)C)=O | C11H11NO
reactant | nitric acid | 30.2 mmol, 1.90 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 5,8-dimethyl-6-nitro-4-quinolone | CC1=C2C(CC=NC2=C(C=C1[N+](=O)[O-])C)=O | C11H10N2O3
